US06503907B2
In analogy to example 3.1, 2,3-Dimethyl-1H-indol-5-ol [for preparation see for example: Roth, H. J.; Lepke, P. Synthesis of indole and carbazole derivatives by condensation of α-hydroxyketones and aromatic amines. Arch. Pharm. (Weinheim) (1972), 305(3), 159-71.] and 1,4-dibromobutane were converted to yield 5-(4-Bromo-butoxy)-2,3-dimethyl-1H-indole as white solid, mp 119-120° C., MS: 295 (M, 1Br).

reactant | 2,3-Dimethyl-1H-indol-5-ol | CC=1NC2=CC=C(C=C2C1C)O | C10H11NO
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 5-(4-Bromo-butoxy)-2,3-dimethyl-1H-indole | BrCCCCOC=1C=C2C(=C(NC2=CC1)C)C | C14H18BrNO
